### PR TITLE
[Merged by Bors] - feat: derivative of the Herglotz–Riesz kernel integral

### PR DESCRIPTION
**Pull request by kebekus**
To prepare for the upcoming proof of the "Lemma on Logarithmic Derivatives" or Value Distribution Theory, compute the derivative of the Herglotz–Riesz kernel integral, as it appears in the Poisson integral formula of single-variable complex analysis.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), formalizing Value Distribution Theory for meromorphic functions on the complex plane. Claude Code was used to create this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 1]
```diff
@@ -140,6 +141,46 @@ theorem le_re_herglotzRieszKernel {c z : ℂ} (hz : z ∈ sphere c R) (hw : w 
...
+-/
+@[fun_prop] lemma continuousOn_herglotzRieszKernel_sphere (hw : w ∈ ball c R) :
+    ContinuousOn (herglotzRieszKernel c w) (sphere c |R|) := by
+  apply ContinuousOn.div (by fun_prop) (by fun_prop)
+  intro z hz
+  rw [sub_sub_sub_cancel_right, sub_ne_zero]
+  intro h
+  rw [mem_sphere, h, abs_of_pos (pos_of_mem_ball hw)] at hz
+  rw [mem_ball] at hw
+  exact absurd hz (ne_of_lt hw)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]:
```suggestion
  grind [mem_sphere, mem_ball, le_abs_self R]
```

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 2]
```diff
@@ -140,6 +141,46 @@ theorem le_re_herglotzRieszKernel {c z : ℂ} (hz : z ∈ sphere c R) (hw : w 
...
+    (circleAverage (fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R).re
+      = circleAverage ((Complex.re ∘ herglotzRieszKernel 0 w) • g) 0 R := by
+  have h₁ : CircleIntegrable (fun ζ ↦ (g ζ : ℂ)) 0 R := by
+    simp only [CircleIntegrable, intervalIntegrable_iff] at hg ⊢
+    exact Complex.ofRealCLM.integrable_comp hg
+  have h₂ : CircleIntegrable (fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R :=
+    h₁.smul_of_continuousOn (continuousOn_herglotzRieszKernel_sphere hw)
+  calc (circleAverage (fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R).re
+      = Complex.reCLM (circleAverage (fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R) := rfl
+    _ = circleAverage (Complex.reCLM ∘ fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]: You can just skip the first one
```suggestion
      = circleAverage (Complex.reCLM ∘ fun ζ ↦ herglotzRieszKernel 0 w ζ • (g ζ : ℂ)) 0 R :=
```

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 3]
```diff
@@ -140,6 +141,46 @@ theorem le_re_herglotzRieszKernel {c z : ℂ} (hz : z ∈ sphere c R) (hw : w 
...
+        (Complex.reCLM.circleAverage_comp_comm h₂).symm
+    _ = circleAverage ((Complex.re ∘ herglotzRieszKernel 0 w) • g) 0 R := by
+        congr 1
+        funext ζ
+        simp [Complex.mul_re]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]: optional, yours is arguably better.
```suggestion
        simp [Function.comp_def, Complex.mul_re, Pi.mul_def]
```

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 4]
```diff
@@ -257,3 +294,100 @@ theorem DiffContOnCl.circleAverage_poissonKernel_smul' [CompleteSpace E] {c : 
...
+    rw [mem_ball] at hx
+  · rw [mem_ball]
+    have := dist_triangle x w c
+    linarith
+  · have h₁ : dist (circleMap c R θ) c = R := by
+      simpa [abs_of_pos hR] using mem_sphere.1 (circleMap_mem_sphere' c R θ)
+    have h₂ := dist_triangle (circleMap c R θ) x c
+    have h₃ := dist_triangle x w c
+    rw [← dist_eq_norm]
+    linarith
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]: You don't have to replace this if you prefer not to. I mainly wanted to do it to see how hard it would be and be sure we have the necessary API (we do). Here I prove this result via metric thickenings. It follows from the fact that `{w}` and `(ball c R)ᶜ` are disjoint, the former is compact and the latter is closed. Arguably my proof is worse than yours anyway since this is an elementary result.
```suggestion
  have : Disjoint {w} (ball c R)ᶜ := by simpa
  obtain ⟨d, hd, h_disj⟩ := this.exists_thickenings isCompact_singleton isOpen_ball.isClosed_compl
  refine ⟨d, hd, ?_, ?_⟩ <;> grw [thickening_singleton] at h_disj
  · simpa using (h_disj.mono_right (self_subset_thickening hd _)).subset_compl_left
  · intro x hx θ
    have := h_disj.subset_compl_right hx
    simp only [mem_compl_iff, mem_thickening_iff, mem_ball, not_lt, not_exists, not_and] at this
    simpa [← dist_eq_norm'] using this (circleMap c R θ) (by simp [dist_eq_norm, le_abs_self])
```

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 5]
```diff
@@ -257,3 +294,100 @@ theorem DiffContOnCl.circleAverage_poissonKernel_smul' [CompleteSpace E] {c : 
...
+  have hgm : AEStronglyMeasurable (fun θ ↦ f (circleMap 0 R θ))
+      (volume.restrict (uIoc 0 (2 * π))) := (intervalIntegrable_iff.1 hg).aestronglyMeasurable
+  simp only [circleAverage_def]
+  apply HasDerivAt.const_smul
+  refine (intervalIntegral.hasDerivAt_integral_of_dominated_loc_of_deriv_le
+    (F' := fun x θ ↦ (2 * circleMap 0 R θ / (circleMap 0 R θ - x) ^ 2) • f (circleMap 0 R θ))
+    (bound := fun θ ↦ 2 * R * (d ^ 2)⁻¹ * ‖f (circleMap 0 R θ)‖)
+    (ball_mem_nhds w hd) ?_ ?_ ?_ ?_ ?_ ?_).2
+  -- Measurability of the integrand, for `x` near `w`
+  · filter_upwards with x
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]: Personally, I would prefer each of these holes to be named and then the cases can be (easily) explicitly chosen. This allows you to prove goals out of order, and it's a bit more robust to future changes (in my opinion).
```suggestion
    (ball_mem_nhds w hd) ?meas1 ?int ?meas2 ?bound ?int_bound ?diff).2
  -- Measurability of the integrand, for `x` near `w`
  case meas1 =>
    filter_upwards with x
```
of course, you should also do `case int =>` etc. if you choose to follow my suggestion.

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 6]
```diff
@@ -257,3 +294,100 @@ theorem DiffContOnCl.circleAverage_poissonKernel_smul' [CompleteSpace E] {c : 
...
+  · filter_upwards with θ _ x hx
+    have h₁ : circleMap 0 R θ - x ≠ 0 := sub_ne_zero.2 (circleMap_ne_mem_ball (hsub hx) θ)
+    have h₂ : HasDerivAt (fun x ↦ herglotzRieszKernel 0 x (circleMap 0 R θ))
+        (2 * circleMap 0 R θ / (circleMap 0 R θ - x) ^ 2) x := by
+      have h₃ := ((hasDerivAt_id' (x := x)).const_add (circleMap 0 R θ)).div
+        ((hasDerivAt_id' (x := x)).const_sub (circleMap 0 R θ)) h₁
+      simp only [herglotzRieszKernel_def, sub_zero]
+      rw [show (1 * (circleMap 0 R θ - x) - (circleMap 0 R θ + x) * -1)
+          = 2 * circleMap 0 R θ by ring] at h₃
+      exact h₃
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]:
```suggestion
      have h₃ := ((hasDerivAt_id' x).const_add (circleMap 0 R θ)).div
        ((hasDerivAt_id' x).const_sub (circleMap 0 R θ)) h₁
      simpa [herglotzRieszKernel_def, sub_zero, sub_sub, ← two_mul, Pi.div_def] using h₃
```

File: Mathlib/Analysis/Complex/Poisson.lean [hunk 7]
```diff
@@ -257,3 +294,100 @@ theorem DiffContOnCl.circleAverage_poissonKernel_smul' [CompleteSpace E] {c : 
...
+/--
+The Herglotz–Riesz kernel integral of a circle-integrable function is differentiable in the pole
+parameter, throughout the open ball.
+-/
+theorem differentiableOn_circleAverage_herglotzRieszKernel_smul (hg : CircleIntegrable f 0 R) :
+    DifferentiableOn ℂ
+      (fun w ↦ circleAverage (fun ζ ↦ herglotzRieszKernel 0 w ζ • f ζ) 0 R) (ball 0 R) :=
+  fun _ hw ↦
+    (hasDerivAt_circleAverage_herglotzRieszKernel_smul hg
+      hw).differentiableAt.differentiableWithinAt
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Poisson.lean]: just style so the line breaks more nicely.
```suggestion
  fun _ hw ↦ hasDerivAt_circleAverage_herglotzRieszKernel_smul hg hw
    |>.differentiableAt.differentiableWithinAt
```

**Review by j-loreaux — COMMENTED** [review]
looks quite good!

bors d+

File: Mathlib/Analysis/Complex/Poisson.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/Poisson.lean]: Implemented as suggested.

**Comment by kebekus** [comment]
@j-loreaux Thanks!

bors r+
